US07977351B2
3-(6,7-Dichloro-1-ethyl-1H-furo[3,4-c]pyridin-3-ylidene)-1,3-dihydro-indol-2-one
In a manner similar to Example 46, 6,7-dichloro-1-ethyl-1H-furo[3,4-c]pyridine-3-one and 1,3-dihydroindol-2-one are converted to the title compound.

reactant | 6,7-dichloro-1-ethyl-1H-furo[3,4-c]pyridine-3-one | ClC1=C(C2=C(C=N1)C(OC2CC)=O)Cl | C9H7Cl2NO2
reactant | 1,3-dihydroindol-2-one | N1C(CC2=CC=CC=C12)=O | C8H7NO
product | 3-(6,7-Dichloro-1-ethyl-1H-furo[3,4-c]pyridin-3-ylidene)-1,3-dihydro-indol-2-one | ClC1=C(C2=C(C=N1)C(OC2CC)=C2C(NC1=CC=CC=C21)=O)Cl | C17H12Cl2N2O2
